US04855323
20 g (59 mmol) of (2-benzyloxy-3-cyclopentylbenzyl)-oxirane, 24.5 g (0.204 mol) of methyl-3-mercaptopropionate and 26.1 g (0.257 mol) of triethylamine are stirred in 150 ml of dry methanol at room temperature and under protective gas (argon or nitrogen) overnight. The solvent is removed by distillation in vacuo, and the residue is chromatographed on a silica gel column (gradient dichloromethane→ethyl acetate). 19.0 g (65% of theory) or methyl 7-(2-benzyloxy-3-cyclopentylphenyl)-6-hydroxy-4-thiaheptanoate are obtained.

reactant | (2-benzyloxy-3-cyclopentylbenzyl)-oxirane | 59 mmol, 20 g | C(C1=CC=CC=C1)OC1=C(CC2OC2)C=CC=C1C1CCCC1 | C21H24O2
reactant | methyl-3-mercaptopropionate | 0.204 mol, 24.5 g | COC(CCS)=O | C4H8O2S
reactant | triethylamine | 0.257 mol, 26.1 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 150 ml | CO | CH4O
product | methyl 7-(2-benzyloxy-3-cyclopentylphenyl)-6-hydroxy-4-thiaheptanoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1C1CCCC1)CC(CSCCC(=O)OC)O | C25H32O4S
